US08076324B2
3-Bromo-5-phenyl-1H-pyrazole
20 g of 3-amino-5-phenylpyrazole were suspended in 200 ml of a 24% aqueous hydrogen bromide solution and a solution of 9.5 g of sodium nitrite in 20 ml of water was added dropwise at 0° C. in the course of 10 min. The mixture was stirred at 0° C. for 10 min. Then the obtained suspension was added in portions to a suspension of 19.8 g of copper(I) bromide in 100 ml of a 24% aqueous hydrogen bromide solution. Subsequently, the mixture was stirred at room temperature for 2 h and then extracted three times with 300 ml each of EA. The combined organic phases were washed twice with 100 ml each of water and once with 100 ml of a saturated aqueous sodium carbonate solution. The organic phase was dried over magnesium sulfate and the solvent was removed in vacuo. Chromatography on silica gel with EA/HEP (1:5) yielded 5.7 g of the title compound as a colorless oil.

reactant | 3-amino-5-phenylpyrazole | 20 g | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
reactant | hydrogen bromide | Br | BrH
reactant | sodium nitrite | 9.5 g | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
catalyst | copper(I) bromide | 19.8 g | [Cu]Br
product | 3-Bromo-5-phenyl-1H-pyrazole | 5.7 g | BrC1=NNC(=C1)C1=CC=CC=C1 | C9H7BrN2
